US04220767
3-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-6-(3-methoxybenzyl)-1,2,4-triazin-5-one
3-Methylthio-6-(3-methoxybenzyl)-1,2,4-triazin-5-one (1.07 g) and 2-(5-methyl-4-imidazolylmethylthio)ethylamine (0.77 g) were heated together on an oil bath (160°-70°) for 3/4 hour. The solidified mass was broken up under methanol (ea 15 ml) and boiled for 5 minutes. After cooling the white solid was filtered off and recrystallised from dimethylformamide to give the title compound as a colourless solid (0.65 g) m.p. 203°-4°.

reactant | 3-Methylthio-6-(3-methoxybenzyl)-1,2,4-triazin-5-one | 1.07 g | CSC1=NN=C(C(N1)=O)CC1=CC(=CC=C1)OC | C12H13N3O2S
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 0.77 g | CC1=C(N=CN1)CSCCN | C7H13N3S
product | 3-[2-(5-Methyl-4-imidazolylmethylthio)ethylamino]-6-(3-methoxybenzyl)-1,2,4-triazin-5-one | 0.65 g | CC1=C(N=CN1)CSCCNC1=NN=C(C(N1)=O)CC1=CC(=CC=C1)OC | C18H22N6O2S
